### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2025-09-14

### PR DESCRIPTION
**Pull request by leanprover-community-bot-assistant**

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -607,7 +607,9 @@ theorem idxOf_get [DecidableEq α] {a : α} {l : List α} (h) : get l ⟨idxOf a
 @[simp]
 theorem getElem?_idxOf [DecidableEq α] {a : α} {l : List α} (h : a ∈ l) :
     l[idxOf a l]? = some a := by
-  rw [getElem?_eq_getElem, getElem_idxOf (idxOf_lt_length_iff.2 h)]
+  rw [getElem?_eq_getElem (idxOf_lt_length_iff.2 h), getElem_idxOf]
+
+@[deprecated (since := "2025-02-15")] alias idxOf_get? := getElem?_idxOf
```
Comment (kim-em) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
```

**Comment by kim-em** [comment]
bors merge
